US07557213B2
Preparation of 3-(5,6-Dimethyl-pyridine-3-carbonyl)-6-fluoro-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 71 mg (0.24 mmol) 3-(5,6-dimethyl-pyridine-3-carbonyl)-6-fluoro-1H-quinolin-4-one, 12 mg (0.29 mmol) of 60% sodium hydride, 53 mg (0.29 mmol) of 2-bromomethyl-6-methyl-pyridine and 1 mL of N,N-dimethylformamide. Yield: 67 mg of a white solid: LC-MSD, m/z for C24H20FN3O2 [M+H]+=402.1; HPLC retention time: 0.7 min.

reactant | 3-(5,6-dimethyl-pyridine-3-carbonyl)-6-fluoro-1H-quinolin-4-one | 0.24 mmol, 71 mg | CC=1C=C(C=NC1C)C(=O)C1=CNC2=CC=C(C=C2C1=O)F | C17H13FN2O2
reactant | sodium hydride | 0.29 mmol, 12 mg | [H-].[Na+]
reactant | 2-bromomethyl-6-methyl-pyridine | 0.29 mmol, 53 mg | BrCC1=NC(=CC=C1)C | C7H8BrN
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(5,6-Dimethyl-pyridine-3-carbonyl)-6-fluoro-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | CC=1C=C(C=NC1C)C(=O)C1=CN(C2=CC=C(C=C2C1=O)F)CC1=NC(=CC=C1)C | C24H20FN3O2
